US07820821B2
To a mixture of 2,4-dimethylaniline (10 mmol) in 5 mL of conc. H2SO4, fuming HNO3 (90%; 0.6 mL) was added dropwise at 0° C. The resulting mixture was stirred for 12 h at RT and then slowly poured into ice. The solid was collected by filtration and dried to yield 2,4-dimethyl-5-nitroaniline as a yellow solid.

reactant | 2,4-dimethylaniline | 10 mmol | CC1=C(N)C=CC(=C1)C | C8H11N
reactant | HNO3 | 0.6 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
product | 2,4-dimethyl-5-nitroaniline | CC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C8H10N2O2
